US03987160
Concentrated sulphuric acid (1.5 ml.) was added dropwise, under anhydrous conditions, to an ice-cooled, stirred suspension of 5-amino-4-carbamoyl-1H-1,2,3-triazole (1.27 g.) in benzoyl chloride (15 ml.), and the reaction mixture then stirred at room temperature overnight. The mixture was poured into ice-water, whereupon a gummy precipitate was formed. The aqueous solution was decanted off, and the gum triturated thoroughly with diethyl ether. The remaining solid was then filtered off, and washed well with diethyl ether, to give crude 5-benzamido-4-carbamoyl-1H-1,2,3-triazole (2.26 g.), m.p. 280° C. (with decomposition). An aliquot was heated in boiling ethanol, and the solid filtered off, while still hot, to give pure 5-benzamido-4-carbamoyl-1H-1,2,3-triazole, m.p. 306° C. (with decomposition).

reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-4-carbamoyl-1H-1,2,3-triazole | 1.27 g | NC1=C(N=NN1)C(N)=O | C3H5N5O
reactant | ethanol | C(C)O | C2H6O
reactant | benzoyl chloride | 15 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 5-benzamido-4-carbamoyl-1H-1,2,3-triazole | C(C1=CC=CC=C1)(=O)NC1=C(N=NN1)C(N)=O | C10H9N5O2
